US05374615
2-(5-Methyl-1H-indol-1-yl)benzoic acid, ethyl ester
5-Methylindole (730.6 mg, 5.57 mmol, 1.0 eq.) was combined with the title C compound of Example 1 (3.189 g, 13.9 mmole, 2.5 eq.) and copper(I)oxide (797 mg, 5.57 mmol, 1.0 eq.) in pyridine (5.6 ml, 1M). The reaction was heated at 120° C. for 3 hours, cooled to room temperature, diluted with ethyl acetate and filtered through celite. The filtrate was washed twice with water, twice with aqueous 1N hydrochloric acid, and once with aqueous saturated sodium hydrogen carbonate. The organic phase was then dried over sodium sulfate, filtered through magnesium sulfate and concentrated. The residue was chromatographed on silica gel (50 g) eluting with hexane:ether (40:1) followed by (20:1) to give 848 mg of the title A compound.

reactant | 5-Methylindole | 5.57 mmol, 730.6 mg, 1.0 eq. | CC=1C=C2C=CNC2=CC1 | C9H9N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 1M, 5.6 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper(I)oxide | 5.57 mmol, 797 mg, 1.0 eq. | [Cu-]=O
product | 2-(5-Methyl-1H-indol-1-yl)benzoic acid, ethyl ester | CC=1C=C2C=CN(C2=CC1)C1=C(C(=O)OCC)C=CC=C1 | C18H17NO2
